US07601711B2
5-([1,4′]Bipiperidinyl-1′-carbonyl)-1H-indole-2-carboxylic acid ethyl ester
The title compound was synthesized in analogy to example 1, intermediate a), from 1H-indole-2,5-dicarboxylic acid 2-ethyl ester, O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (commercially available), 4-piperidinopiperidine (commercially available) and N,N-diisopropylethylamine in N,N-dimethylformamide, to give the desired product as a brown solid (67%).

reactant | 1H-indole-2,5-dicarboxylic acid 2-ethyl ester | CCOC(=O)C=1NC2=CC=C(C=C2C1)C(=O)O | C12H11NO4
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4-piperidinopiperidine | N1(CCCCC1)C1CCNCC1 | C10H20N2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-([1,4′]Bipiperidinyl-1′-carbonyl)-1H-indole-2-carboxylic acid ethyl ester | 67% | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1CCC(CC1)N1CCCCC1 | C22H29N3O3
